US07157491B2
7-(4-Hydroxyphenyl)-1-benzothiophene-4-carbaldehyde oxime
To a 10 ml round bottom flask was added 7-(4-hydroxyphenyl)-1-benzothiophene-4-carbaldehyde (61.7 mg, 0.24 mmol), hydroxylamine hydrochloride (34 mg, 0.49 mmol), and anhydrous pyridine (0.04 ml, 0.49 mmol) in MeOH (1.5 ml) was heated to reflux for 1 h and then allowed to cool. The mixture was then diluted with ether, washed with water and the organic layer was dried over anhydrous Na2SO4 then passed through a silica plug. Concentration under reduced pressure produced 60 mg of a slightly yellow solid and purification by column chromatography (40% EtOAc-hexanes) afforded 50 mg (92%) product as a slightly yellow solid: mp 230–231° C.; 1H NMR (300 MHz, DMSO-d6): δ 6.93 (2H, d, J=8.55 Hz), 7.38 (1H, d, J=7.63), 7.57 (2H, d, J=8.53 Hz), 7.68 (1H, d, J=7.71 Hz), 7.91 (1H, d, J=5.61 Hz), 8.12 (1H, d, J=5.64 Hz), 8.57 (1H, s), 9.77 (1H, s), 11.41 (1H, s); MS (ESI) m/z 270 ([M+H]+).

reactant | 7-(4-hydroxyphenyl)-1-benzothiophene-4-carbaldehyde | 0.24 mmol, 61.7 mg | OC1=CC=C(C=C1)C=1C=CC(=C2C=CSC21)C=O | C15H10O2S
reactant | hydroxylamine hydrochloride | 0.49 mmol, 34 mg | Cl.NO
reactant | pyridine | 0.49 mmol, 0.04 ml | N1=CC=CC=C1 | C5H5N
solvent | MeOH | 1.5 ml | CO | CH4O
solvent | ether | CCOCC | C4H10O
product | 7-(4-Hydroxyphenyl)-1-benzothiophene-4-carbaldehyde oxime | 50 mg, 92% | OC1=CC=C(C=C1)C=1C=CC(=C2C=CSC21)C=NO | C15H11NO2S
